US07160875B2
a) [(3S)-5-(2,2-Dimethyl-propionyl)-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester
In an analogous manner to that described in Example 103b), the acylation of (S)-(1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester with pivaloyl chloride yielded the title compound as a white solid; MS: m/e=376 (M+H)+.

reactant | (S)-(1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNC2=C(N(C1=O)C)C=CC=C2)=O | C15H21N3O3
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | [(3S)-5-(2,2-Dimethyl-propionyl)-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(C2=C(N(C1=O)C)C=CC=C2)C(C(C)(C)C)=O)=O | C20H29N3O4
